US08383644B2
(S)-2-tert-Butoxycarbonylamino-3-{(S)-2-[3-(3,4-dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-propionic acid methyl ester
(+)-1,2-bis((2S,5S)-2,5-Diethylphospholano)benzene (cyclooctadiene) rhodium(I)trifluoromethanesulfonate (0.22 g) was dissolved in 2 mL of DCM and added to a solution of 2-tert-butoxycarbonylamino-3-{(S)-2-[3-(3,4-dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]-dioxin-6-yl}-acrylic acid methyl ester (1.8 g) in 20 mL EtOAc. The mixture was then degassed and flushed with hydrogen and stirred under hydrogen atmosphere (balloon) for 1 hour. The solvent was then evaporated and the residue was purified by silica gel flash chromatography (DCM to 5% EtOAC in DCM) to get pure product 1.7 g. 1H NMR (400 MHz, CDCl3): 7.55 (d, 1H), 7.46 (d, 1H), 7.24-7.37 (m, 2H), 7.00-7.06 (m, 2H), 6.92-6.97 (m, 1H), 6.90 (d, 1H), 6.70 (d, 1H), 6.61-6.70 (m, 1H), 5.08 (m, 1H), 5.03 (d, 2H), 4.99 (d, 1H), 4.50-4.60 (m, 1H) 4.34 (m, 1H), 3.98 (m, 1H) 3.74 (s, 3H), 2.80-3.20 (m, 2H), 1.44 (s, 9H). LCMS (m/z): 589.

reactant | 2-tert-butoxycarbonylamino-3-{(S)-2-[3-(3,4-dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]-dioxin-6-yl}-acrylic acid methyl ester | 1.8 g | COC(C(=CC1=CC2=C(O[C@H](CO2)C2=CC(=CC=C2)OCC2=CC(=C(C=C2)Cl)Cl)C=C1)NC(=O)OC(C)(C)C)=O | C30H29Cl2NO7
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | (S)-2-tert-Butoxycarbonylamino-3-{(S)-2-[3-(3,4-dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-propionic acid methyl ester | 1.7 g | COC([C@H](CC1=CC2=C(O[C@H](CO2)C2=CC(=CC=C2)OCC2=CC(=C(C=C2)Cl)Cl)C=C1)NC(=O)OC(C)(C)C)=O | C30H31Cl2NO7
